US07863313B2
1-(4-Methylphenyl)-1-heptanone
To a stirred solution of α-hexyl-4-methyl-benzenemethanol (2.10 g, 10.2 mmol.) in anhydrous dichloromethane (45 mL) under an atmosphere of dry nitrogen was added pyridinium chlorochromate (3.08 g, 14.3 mmol., 1.4 eq.). Stirring was continued at room temperature for 3 hours after which time analysis by thin layer chromatography revealed complete conversion of the starting alcohol. Following evaporation of the reaction solvent the desired ketone (1.929 g, 93%) was isolated by flash chromatography on silica gel, eluting with hexane-ethyl acetate (4:1). 1H nmr (200 MHz, CDCl3) 0.86-1.76 (m, 3H, (CH2)5CH3), 2.41 (s, 3H, ArCH3), 2.93 (t, J=3.6 Hz, 2H, COCH2), 7.25 (d, J=4.2 Hz, 2H, 2×ArH), 7.86 (d, J=4.2 Hz, 2H, 2×ArH).

reactant | α-hexyl-4-methyl-benzenemethanol | 10.2 mmol, 2.10 g | C(CCCCC)C(O)C1=CC=C(C=C1)C | C14H22O
reactant | pyridinium chlorochromate | 14.3 mmol, 3.08 g, 1.4 eq. | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 1-(4-Methylphenyl)-1-heptanone | CC1=CC=C(C=C1)C(CCCCCC)=O | C14H20O
